Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
Drug eluting stent to the LAD on ___

 
History of Present Illness:
Mr. ___ is a ___ man with HTN and obesity (has not
been in contact with the medical system for several years) who
presented to ___ with sudden-onset chest pain and
pressure for 30minutes and was found to have STEMI on EKG so he
was transferred to ___ for emergent cardiac catheterization. 

The patient was in his usual state of health until the day of
admission. While painting at work he was feeling slightly
fatigued and nauseous. He went home at 1800 and ate a large 
meal.
Shortly after he ate he developed severe chest discomfort,
pressure, dyspnea, and nausea. He could not catch his breath so
he had his daughter take him to ___.  

At ___, the patient had an EKG that showed ST
segment elevations in V1-3, Q waves and biphasic T waves in the
inferior leads. His blood pressure was elevated to 200s 
systolic,
which improved spontaneously prior to receiving any medications.
Patient was given ___ 324, nitroglycerin, ___ 600, and IV
heparin. The EKG was reviewed by interventional cardiology and
the patient was transferred to ___ for emergent cardiac
catheterization.  

___: 
- WBC 10.2, Hgb 16.8, Plt 240 
- Cr 1.1, glucose 300
- Troponin I 0.16  

During cardiac cathteterization, he was found to have a 90-95%
thrombotic lesion in mid-proximal LAD s/p 1 DES. He also was
noted to have mild disease in the distal LAD and circ. He was
accessed via the R radial artery. He tolerated the
catheterization well and was symptom free post-procedure. 

On the floor, the patient reports feeling well. He has no chest
pain, palpitations, dyspnea, or nausea. He denies abdominal 
pain,
diarrhea. Prior to yesterday, he has not had any exertional 
chest
pain or dyspnea that he can recall. He denies orthopnea, pnd, or
___ swelling. He denies unexpected weight changes. 

 
Past Medical History:
- Obesity 
- Hypertension
- Has not seen a physician for several years
 
Social History:
___
Family History:
No history of CAD, MI, or early cardiac death 

 
Physical Exam:
ADMISSION EXAM
===============
General: no weight loss, fevers, sweats.  
Eyes: no vision changes.  
ENT: no odynophagia, dysphagia, neck stiffness.  
Cardiac: no chest pain, palpitations, orthopnea.  
Resp: no shortness of breath or cough.  
GI: no nausea, vomiting, diarrhea.  
GU: no dysuria, frequency, urgency.  
Neuro: no unilateral weakness, numbness, headache.  
MSK: no myalgia or arthralgia.  
Heme: no bleeding or easy bruising.  
Lymph: no swollen lymph nodes.  
Integumentary: no new skin rashes or lesions.  
Psych: no mood changes  

DISCHARGE EXAM
==============
T97.9, BP 135/71, HR71, RR20, PO297 RA  
General: no acute distress  
NECK: JVP not elevated 
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Slightly decreased BS at bases 
Abdomen: Soft, non-tender, non-distended  
Ext: Warm, well perfused, no edema 
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: Alert, conversant, no gross focal deficits 

 
Pertinent Results:
ADMISSION ___
===============
___ 08:00AM BLOOD WBC-9.7 RBC-5.51 Hgb-15.9 Hct-46.9 MCV-85 
MCH-28.9 MCHC-33.9 RDW-12.3 RDWSD-37.9 Plt ___
___ 08:00AM BLOOD ___ PTT-28.5 ___
___ 08:00AM BLOOD Glucose-239* UreaN-16 Creat-0.7 Na-138 
K-4.6 Cl-104 HCO3-22 AnGap-12
___ 08:00AM BLOOD ALT-75* AST-155* AlkPhos-118 TotBili-0.4
___ 08:00AM BLOOD cTropnT-2.73*
___ 08:00AM BLOOD Albumin-4.2 Calcium-8.7 Phos-3.5 Mg-2.1 
Cholest-190
___ 08:00AM BLOOD %HbA1c-10.3* eAG-249*
___ 08:00AM BLOOD Triglyc-117 HDL-35* CHOL/HD-5.4 
LDLcalc-132*
___ 08:00AM BLOOD TSH-2.4

IMAGING
=======
TTE ___
The left atrial volume index is normal. The right atrium is 
mildly enlarged. There is no evidence for an
atrial septal defect by 2D/color Doppler. The estimated right 
atrial pressure is ___ mmHg. There is mild
symmetric left ventricular hypertrophy with a normal cavity 
size. There is mild regional left ventricular
systolic dysfunction with hypokinesis of the mid-distal septum 
(see schematic). No thrombus or mass is
seen in the left ventricle. The visually estimated left 
ventricular ejection fraction is 50-55%. Left
ventricular cardiac index is normal (>2.5 L/min/m2). There is no 
resting left ventricular outflow tract
gradient. No ventricular septal defect is seen. Diastolic 
parameters are indeterminate. Mildly dilated
right ventricular cavity with normal free wall motion. The 
aortic sinus diameter is normal for gender
with normal ascending aorta diameter for gender. The aortic arch 
diameter is normal with a normal
descending aorta diameter. The aortic valve leaflets (3) appear 
structurally normal. There is no aortic
valve stenosis. There is trace aortic regurgitation. The mitral 
valve leaflets are mildly thickened with no
mitral valve prolapse. There is trivial mitral regurgitation. 
The tricuspid valve leaflets appear structurally
normal. There is physiologic tricuspid regurgitation. The 
estimated pulmonary artery systolic pressure is
normal. There is no pericardial effusion.
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
mild regional left ventricular
systolic dysfunction consistent with mid-LAD disease. No 
clinically significant valvular disease.
Normal pulmonary pressure.
EMR

CORONARY ANGIOGRAPHY ___
90-95% thrombotic lesion in mid-proximal LAD s/p 1 DES. He also 
was
noted to have mild disease in the distal LAD and circ. He was
accessed via the R radial artery. He tolerated the
catheterization well and was symptom free post-procedure.

DISCHARGE ___
===============
___ 05:56AM BLOOD WBC-9.4 RBC-5.63 Hgb-16.0 Hct-48.2 MCV-86 
MCH-28.4 MCHC-33.2 RDW-12.4 RDWSD-38.5 Plt ___
___ 05:56AM BLOOD Glucose-205* UreaN-18 Creat-0.7 Na-137 
K-4.8 Cl-100 HCO3-23 AnGap-14
___ 05:56AM BLOOD Calcium-9.3 Phos-3.7 Mg-2.0
 
Brief Hospital Course:
SUMMARY STATEMENT 
===================== 
Mr. ___ is a ___ man with HTN and obesity (has not 
been in contact with the medical system for several years) who 
was admitted w/ STEMI, now s/p DES to the mid-LAD. 

ACUTE/ACTIVE PROBLEMS: 
# Anterior STEMI s/p DES to mid-LAD lesion 
Patient had a DES placed in the mid-LAD. Mild disease in RCA and 
circ. Patient was symptom free post-procedure. Radial artery 
used for access, no e/o bleed or pseudoaneurysm. TTE showed 
mild, symmetric LVH; RSWMA c/w mid-LAD lesion; EF 50-55%, no 
apical akinesis; No valvular pathology. Patient given ___, 
___, Metoprolol 25 mg q6h, Atorvastatin 80 mg daily, and 
lisinopril 5 mg daily. 

# HTN. 
BPs at ___ were in 160s - 200s. Improved to 110s 
after addition of metoprolol and lisinopril.

# Diabetes. 
Glucose at ___ was in 300s. Patient has not interacted with 
the healthcare system for multiple decades. A1c 10.3%. ___ 
consulted and Started Metformin 1000 mg BID and glipezide 5 mg 
BID. Discharged with glucometer, will need very close follow up 
of sugars. 

TRANSITIONAL ISSUES
===================
- DISCHARGE WEIGHT: 95.2 kg (209.88 lbs) 
- DISCHARGE CREATININE: 0.7
- POST-STEMI MEDICATIONS: ___ 81 mg, atorvastatin 80 mg, 
clopidogrel 75 mg, metoprolol succinate 100 mg daily, lisinopril 
5 mg daily 

[] Patient does not have insurance right now. Filled out 
paperwork to apply for Mass Health, but this can take up to 40 
days to process. Can get free medications from ___ care plus, 
but only two weeks supply at a time. 
[] Newly diagnosed Type II DM. Started on glipizide and 
metformin this admission. Please follow blood glucose and A1c. 
Discharged with glucometer to monitor sugars
[] Please ensure follow up with ___ and 
cardiology.
[] Follow up glycemic control 
[] will need eye exam outpatient

#CODE: Full Code
#CONTACT: ___ DAUGHTER. ___
 
Medications on Admission:
none
 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 80 mg PO QPM  
3.  Clopidogrel 75 mg PO DAILY to prevent stent thrombosis  
4.  GlipiZIDE 5 mg PO BID  
5.  Lisinopril 5 mg PO DAILY  
6.  MetFORMIN (Glucophage) 1000 mg PO BID  
7.  Metoprolol Succinate XL 100 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY
- ST Elevation myocardial infarction s/p DES 
- Type II diabetes mellitus 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You came into the hospital because you were having chest pain. 
You were found to have a heart attack. This was treated with a 
stent in one of your heart's arteries. You were started on 
several heart and blood pressure medications. You were also 
found to have diabetes. You were started on two diabetes 
medications.

When you leave the hospital you should:
- Take all of your medications as prescribed. 
- Weigh yourself every day and call your doctor if your weight 
goes up more than 3 pounds in one day or 5 pounds in one week
- Please try to check you sugars with the glucometer twice a day 
and keep track of the numbers. This will help your diabetes 
doctors ___ your ___
- It is VERY important for you to take your aspirin and ___ 
(clopidogrel) medications EVERY DAY because if you don't, your 
heart stent can close up and cause a massive heart attack
- See your primary care doctor, ___, and the ___ 
Diabetes doctors
- Avoid strenuous activity for one month.
- Call your doctor if you are having chest pain or shortness of 
breath. 
- While waiting for your Mass Health insurance to become active, 
you will have to pick up medications from the ___ Pharmacy in 
___ (free care pharmacy called Care Plus); they will be 
able to give you 2 week supplies of your medications for free

It was a pleasure taking care of you, 
Your ___ Care Team

 
Followup Instructions:
___